US09387200B2
b) {[7-(4-Cyano-phenyl)-3-(4-fluoro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-acetic acid
The title compound was synthesized in analogy to Example 1 from 7-(4-cyano-phenyl)-3-(4-fluoro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester and glycine: MS (m/z) 447.1 (M−1).

reactant | 7-(4-cyano-phenyl)-3-(4-fluoro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C1=CC=C(C=C1)C#N)SN=C2C2=CC=C(C=C2)F)O | C22H14FN3O3S
reactant | glycine | NCC(=O)O | C2H5NO2
product | {[7-(4-Cyano-phenyl)-3-(4-fluoro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-acetic acid | C(#N)C1=CC=C(C=C1)C=1N=C(C(=C2C1SN=C2C2=CC=C(C=C2)F)O)C(=O)NCC(=O)O | C22H13FN4O4S
